US04236004
7,8-dihydro-5-hydroxy-8-methyl-2-(methylthio)-7-oxo-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of 4.54 g. (0.02 mole) of 4-methylamino-2-methylthio-5-pyrimidine carboxylic acid ethyl ester in 100 ml. of anhydrous diethyl ether was added 1.5 g. (0.01 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 1 hour. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was triturated with a few ml. of diethyl ether and was filtered. The filtrate was evaporated and the residue was dissolved in 10 ml. of ethanol. This solution was added to a solution of 0.37 g. (0.015 g atom) of sodium in 20 ml. of ethanol. The mixture was stirred at room temperature for 10 minutes. The mixture was diluted with water and was acidified with glacial acetic acid. The precipitate which formed was collected, air dried and was recrystallized from ethanol to afford 0.4 g. of title product--m.p. 166°-168° C.

reactant | 4-methylamino-2-methylthio-5-pyrimidine carboxylic acid ethyl ester | 0.02 mole | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC | C9H13N3O2S
reactant | ethyl malonyl chloride | 0.01 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 7,8-dihydro-5-hydroxy-8-methyl-2-(methylthio)-7-oxo-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)C)O | C12H13N3O4S
